US04446065
C. Preparation of 4-Benzoyloxy-1-piperidinocyclohexanecarbonitrile
4-Benzoyloxycyclohexanone (13.5 g, 62 mmoles), piperidine hydrochloride (8.1 g, 67 mmoles) and potassium cyanide (4.25 g, 65 mmoles) were dissolved in 60 ml of 95% ethanol and 60 ml of water. The mixture was stirred at room temperature for 16 hours (overnight). The resulting solid material was collected by filtration. The filtrate was diluted with 100 ml of water and the solution was extracted with ether. Concentration of the ethereal solution gave more solid material. The combined solid material was recrystallized from 90% ethanol to give 14.5 g of white crystalline solid (mp: 165°-171° C.) in 75% yield.

reactant | 4-Benzoyloxycyclohexanone | 62 mmoles, 13.5 g | C(C1=CC=CC=C1)(=O)OC1CCC(CC1)=O | C13H14O3
reactant | piperidine hydrochloride | 67 mmoles, 8.1 g | Cl.N1CCCCC1
reactant | potassium cyanide | 65 mmoles, 4.25 g | [C-]#N.[K+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 4-Benzoyloxy-1-piperidinocyclohexanecarbonitrile | 14.5 g, 75% yield | C(C1=CC=CC=C1)(=O)OC1CCC(CC1)(C#N)N1CCCCC1 | C19H24N2O2
